* source IDC
R_R2         N02724 0  8R TC=0,0 
C_C3         N02708 N02724  10u  TC=0,0 
X_U1         0 N02892 N02708 N02660 N02848 N02892 N02888 N02660 555B
V_V1         N02660 0 9V
C_C1         N02892 0  2.2u  TC=0,0 
R_R1         N02708 N02892  47k TC=0,0 
C_C2         N03106 N02892  2.2u  TC=0,0 
I_I1         N03106 N02708 DC 0Adc  
