* source LASTPROJECT
C_C2         N02111 N02003  2.2u  TC=0,0 
C_C3         N01847 N01863  10u  TC=0,0 
L_L1         N02111 N01847  10mH  
R_R1         N01847 N02003  47k TC=0,0 
C_C1         N02003 N01807  2.2u  TC=0,0 
X_U1         N01807 N02003 N01847 N01799 N02192 N02003 N02196 N01799 555B
V_V1         N01799 N01807 9V
