* source INTRNETPRO
C_C3         N01147 N01163  10u  TC=0,0 
X_U1         0 N01303 N01147 N01099 N01475 N01303 N01479 N01099 555B
C_C2         N01617 N01303  2.2u  TC=0,0 
V_V1         N01099 0 9V
C_C1         N01303 0  2.2u  TC=0,0 
R_R2         N01163 0  8R TC=0,0 
R_R1         N01147 N01303  47k TC=0,0 
R_R3         N01147 N01617  150 TC=0,0 
